US08476287B2
<Step 1> Synthesis of 4-phenoxy-2,3-dihydroinden-1-one
To phenyl boronic acid (1.0 g) and 4-hydroxy-2,3-dihydro-1H-inden-1-one (1.0 g), methylene chloride (67 mL) was added and thereto, copper (II) acetate (1.4 g), molecular sieves 4A (1.9 g), and triethylamine (4.7 mL) were added, followed by stirring the resultant reaction mixture at room temperature in an oxygen atmosphere for 19 hours. The reaction mixture was filtered through a pad of Celite and the filtered substance was washed with ethyl acetate. To the resultant filtrate, a 1M aqueous solution of sodium hydroxide was added and the resultant mixture was filtered through a pad of Celite again. The resultant filtrate was phase-separated into an aqueous phase and an organic phase and the aqueous phase was extracted with ethyl acetate to combine the resultant organic phase with the above organic phase. The combined organic phase was washed with saturated saline and was dried over sodium sulfate anhydride. From the organic phase, the solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography to obtain the subject compound (1.1 g) as an orange solid.

reactant | phenyl boronic acid | 1.0 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-hydroxy-2,3-dihydro-1H-inden-1-one | 1.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | methylene chloride | 67 mL | C(Cl)Cl | CH2Cl2
reactant | oxygen | O=O | O2
catalyst | copper (II) acetate | 1.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | triethylamine | 4.7 mL | C(C)N(CC)CC | C6H15N
product | 4-phenoxy-2,3-dihydroinden-1-one | 1.1 g | O(C1=CC=CC=C1)C1=C2CCC(C2=CC=C1)=O | C15H12O2
